US06319939B1
A mixture of (±)-N-[4-[2-methyl-1-(1H-1,2,4-triazol-1-yl)propyl]phenyl]acetamide (0.095 mol) in HCl (3N) (250 ml) was stirred and heated at 60° C. for 5 hours. The mixture was cooled, poured into ice, basified with concentrated NH4OH and extracted with CH2Cl2. The organic layer was dried, filtered off and evaporated. The residue was crystallized from 2-propanone/(C2H5)2O and filtered off, yielding 15.5 g (75%) of (±)-4-[2-methyl-1-(1H-1,2,4-triazol-1-yl)propyl]-benzenamine (interm. 2; mp. 117.8° C.).

reactant | (±)-N-[4-[2-methyl-1-(1H-1,2,4-triazol-1-yl)propyl]phenyl]acetamide | 0.095 mol | CC(C(N1N=CN=C1)C1=CC=C(C=C1)NC(C)=O)C | C14H18N4O
reactant | NH4OH | [NH4+].[OH-]
solvent | HCl | 3N, 250 ml | Cl | ClH
product | (±)-4-[2-methyl-1-(1H-1,2,4-triazol-1-yl)propyl]-benzenamine | 15.5 g, 75% | CC(C(N1N=CN=C1)C1=CC=C(C=C1)N)C | C12H16N4
